**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  THT High Current Inductor
* Matchcode:              WE-HIDA
* Library Type:           LTspice
* Version:                rev22b
* Created/modified by:    Ella
* Date and Time:          12/21/2022
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1415_7444211415082_8.2u 1 2 3 4
Rdc1 1 N1 0.0092
Rp1 1 4 2000
Cp1 1 4 7.8p
L1 N1 4 6.4u

Rdc2 2 N2 0.0092
Rp2 2 3 2000
Cp2 2 3 7.8p
L2 N2 3 6.4u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1415_7444211415082_8.2u
*******
.subckt 1415_7444211415100_10u 1 2 3 4
Rdc1 1 N1 0.0092
Rp1 1 4 2100
Cp1 1 4 7.5p
L1 N1 4 8.2u

Rdc2 2 N2 0.0092
Rp2 2 3 2100
Cp2 2 3 7.5p
L2 N2 3 8.2u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1415_7444211415100_10u
*******
.subckt 1415_7444211415150_15u 1 2 3 4
Rdc1 1 N1 0.0146
Rp1 1 4 2900
Cp1 1 4 11p
L1 N1 4 12.4u

Rdc2 2 N2 0.0146
Rp2 2 3 2900
Cp2 2 3 11p
L2 N2 3 12.4u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1415_7444211415150_15u
*******
.subckt 1415_7444211415220_22u 1 2 3 4
Rdc1 1 N1 0.0148
Rp1 1 4 3000
Cp1 1 4 11.5p
L1 N1 4 18.7u

Rdc2 2 N2 0.0148
Rp2 2 3 3000
Cp2 2 3 11.5p
L2 N2 3 18.7u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1415_7444211415220_22u
*******
.subckt 1521_74441521082_8.2u 1 2 3 4
Rdc1 1 N1 0.0062
Rp1 1 4 3050.4
Cp1 1 4 10.0666p
L1 N1 4 7.4941u

Rdc2 2 N2 0.0062
Rp2 2 3 3050.4
Cp2 2 3 10.0666p
L2 N2 3 7.4941u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1521_74441521082_8.2u
*******
.subckt 1521_74441521100_10u 1 2 3 4
Rdc1 1 N1 0.0063
Rp1 1 4 2222.9
Cp1 1 4 8.91695p
L1 N1 4 9.98375u

Rdc2 2 N2 0.0063
Rp2 2 3 2222.9
Cp2 2 3 8.91695p
L2 N2 3 9.98375u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1521_74441521100_10u
*******
.subckt 1521_74441521150_15u 1 2 3 4
Rdc1 1 N1 0.0085
Rp1 1 4 3000
Cp1 1 4 7.8p
L1 N1 4 12.9u

Rdc2 2 N2 0.0085
Rp2 2 3 3000
Cp2 2 3 7.8p
L2 N2 3 12.9u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1521_74441521150_15u
*******
.subckt 1521_74441521220_22u 1 2 3 4
Rdc1 1 N1 0.0136
Rp1 1 4 4500
Cp1 1 4 10p
L1 N1 4 20u

Rdc2 2 N2 0.0136
Rp2 2 3 4500
Cp2 2 3 10p
L2 N2 3 20u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1521_74441521220_22u
*******
